


* HSPICE Deck for 4-bit TSPC D Flip-Flop
* Testbench to measure propagation delays

*======================================================================
* INCLUDES
*======================================================================
* Include the 65nm process model file (adjust path if necessary)
.include /modelfile_65nm/minNminP.cir

* Include the 4-bit TSPC netlist you provided
.include multibit_tspc.src.net

*======================================================================
* TOP LEVEL AND PARAMETERS
*======================================================================
.global vdd gnd
.OPTION EPS=1e-5

.param SUPPLY = 1.08
.param tend = 150n
.TEMP = 125
.param min_Supply = 'SUPPLY*0.3'
.param max_Supply = 'SUPPLY*0.7'

*======================================================================
* CIRCUIT INSTANTIATION
*======================================================================
* Instantiate the 4-bit TSPC subcircuit from your .src.net file
* .SUBCKT multi_bit_tspc clk d1 d2 d3 d4 gnd q1 q2 q3 q4 vdd
X1 clk d1 d2 d3 d4 gnd q1 q2 q3 q4 vdd multi_bit_tspc

* Add load capacitors to each output for realistic loading
C1 q1 gnd 20f
C2 q2 gnd 20f
C3 q3 gnd 20f
C4 q4 gnd 20f

*======================================================================
* VOLTAGE SOURCES (STIMULUS)
*======================================================================
* Power Supplies
Vdd vdd 0 SUPPLY
Vgnd gnd 0 0

* Clock Signal (10ns period, 100MHz
Vclk clk gnd PULSE(0 SUPPLY 0n 10p 10p 5n 10n)

* Data Inputs - Provide different patterns to test each flip-flop
*  (low_voltage high_voltage starting_delay rise_time fall_time on_pulse_width time_period)
*                lv hv    sd  rt  ft  pw  tp


*** 
*======================================================================
* 		INPUT SIGNALS
*======================================================================
 Vd1 d1 gnd PULSE(0 SUPPLY 9n 10p 10p 7.5n 15n)  * Data pulse for FF1
 Vd2 d2 gnd PULSE(0 SUPPLY 8n 10p 10p 10n 20n)  * Data pulse for FF2
 Vd3 d3 gnd PULSE(0 SUPPLY 12n 10p 10p 13n 26n)  * Data pulse for FF3
 Vd4 d4 gnd PULSE(0 SUPPLY 18n 10p 10p 10n 20n)  * Data pulse for FF4

*======================================================================
* ANALYSIS AND MEASUREMENTS
*======================================================================
* Probes for waveform viewing
.probe v(*) v(x1.*) I(*)
.probe i(*)

*==============================================================================================================================================
* --------------------------------------------------------------------------------------------------------------------------------------------- 
* --------------------------------------------------- Propagation Delay Measurements for Q1 --------------------------------------------------- 
* --------------------------------------------------------------------------------------------------------------------------------------------- 
*==============================================================================================================================================

*.param data_delay = 0n
.param data_fall_time = 1.5n


*---------------- Hold time ----------
*.STEP PARAM data_delay <start> <end> < step >
* .param data_delay = 0p
* Vd1 d1 gnd PULSE(0 SUPPLY '9n+ data_delay' 70p 70p 7.5n 15n)  * Data pulse for FF1
* .STEP PARAM data_delay 2n 0n -50p


*---------------- SetUp time ----------
*  .STEP PARAM data_delay <start> <end> < step >
* .param data_delay = 0n
* Vd1 d1 gnd PULSE(0 SUPPLY 'data_delay' 70p 70p 9n 15n)  * Data pulse for FF1
* .STEP PARAM data_delay 0n 2n 100p


*Vd1 d1 gnd PULSE(0 SUPPLY 1n 70p 70p 7.5n 15n)  * Data pulse for FF1
.measure  tran  tplh_q1 TRIG v(clk) VAL='SUPPLY/2' RISE=3 TARG v(q1) VAL='SUPPLY/2' RISE=1
.measure  tran  tphl_q1 TRIG v(clk) VAL='SUPPLY/2' RISE=4 TARG v(q1) VAL='SUPPLY/2' FALL=2
.measure  TRAN  clk_to_q1_delay param = '(tplh_q1 + tphl_q1) / 2'

.measure  tran DELAY_CLK_D TRIG v(clk) VAL='SUPPLY/2' RISE=2 TARG v(d1) VAL='SUPPLY/2' FALL=1



* =========================== Old power Calculation ===============================
* --- Power Measurements for d1 and Q1 ---

* 1. Total Average Power
* .measure TRAN avg_current_total_Q1 AVG I(VD1) FROM=17n TO=77n
* .measure TRAN total_average_power_Q1 PARAM='ABS(avg_current_total_Q1 * SUPPLY)'


* 2. Static (Leakage) Power

* .measure TRAN avg_current_static_Q1 AVG I(VD1) FROM=148.06n TO=150n
* .measure lekage_current_Q1 param = 'ABS(avg_current_static_Q1)'

* Average static power is the average of these two leakage states 
* .measure TRAN static_power_Q1 PARAM='ABS(lekage_current_Q1 * SUPPLY)'


* 3. Average Dynamic Power
* Dynamic Power = Total Power - Static Power
*.measure TRAN average_dynamic_power_Q1 PARAM= 'ABS(total_average_power_Q1 - static_power_Q1)'

* =========================== New power Calculation ===============================
  * A ----------- total power --------
* .measure TRAN avg_rising_current_Q1 AVG I(VD1) FROM=24.5n TO=32n
* .measure TRAN avg_falling_current_Q1 AVG I(VD1) FROM=32n TO=39.5n
* .measure TRAN total_average_current_Q1 PARAM='ABS(ABS(avg_rising_current_Q1) + ABS(avg_falling_current_Q1))'
* .measure TRAN total_average_power_Q1 PARAM='ABS(total_average_current_Q1 * SUPPLY)'


  * B ----------- Static power --------

* .measure TRAN avg_static_current_Q1 AVG I(VD1) FROM=32.03n TO=39.5n
* .measure TRAN average_static_power_Q1 PARAM='ABS(avg_static_current_Q1 * SUPPLY)'


  * C ----------- Dynamic power --------
* .measure TRAN average_Dynamic_Power_Q1 PARAM='ABS(ABS(total_average_power_Q1) - ABS(average_static_power_Q1))'


* =========================== Anvesh power Calculation ===============================


********* Total ******************
* .extract label=total_current_Q1 abs((integ(I(VD1),17.06n,31.97n))/(14.91n))
* .measure TRAN total_power_Q1 PARAM='1.08*(total_current_Q1)'


********* Static ******************
* .extract label=leakage_current_high_Q1 abs((integ(I(VD1),5.25n,9.08n))/(9.08n-5.25n))
* .extract label=leakage_current_low_Q1 abs((integ(I(VD1),9.60n,16.50n))/(16.50n-9.60n))
* .measure TRAN static_power_Q1 PARAM='1.08 *(leakage_current_high_Q1 + leakage_current_low_Q1)'


********* Dynamic ******************
* .measure TRAN average_dynamic_power_Q1 PARAM='abs(total_power_Q1 - static_power_Q1)'

*==============================================================================================================================================
* --------------------------------------------------------------------------------------------------------------------------------------------- 
* --------------------------------------------------- Propagation Delay Measurements for Q2 --------------------------------------------------- 
* --------------------------------------------------------------------------------------------------------------------------------------------- 
*==============================================================================================================================================


* --- Propagation Delay Measurements for Q2 ---
*.measure tran tplh_q2 TRIG v(clk) VAL='SUPPLY/2' RISE=2 TARG v(q2) VAL='SUPPLY/2' RISE=1
*.measure tran tphl_q2 TRIG v(clk) VAL='SUPPLY/2' RISE=3 TARG v(q2) VAL='SUPPLY/2' FALL=2
*.measure TRAN clk_to_q2_delay param = '(tplh_q2 + tphl_q2) / 2'


* --- Power Measurements for d2 and Q2 ---

* 1. Total Average Power
*.measure TRAN avg_current_total_Q2 AVG I(VD2) FROM=58.00992n TO=78.00994n
*.measure TRAN total_average_power_Q2 PARAM='ABS(avg_current_total_Q2 * SUPPLY)'


* 2. Static (Leakage) Power

*.measure TRAN avg_current_static_Q2 AVG I(VD2) FROM=2.0309n TO=5.00958n
*.measure lekage_current_Q2 param = 'ABS(avg_current_static_Q2)'

* Average static power is the average of these two leakage states (for 50% duty cycle).
*.measure TRAN static_power_Q2 PARAM='ABS(lekage_current_Q2 * SUPPLY)'


* 3. Average Dynamic Power
* Dynamic Power = Total Power - Static Power
*.measure TRAN average_dynamic_power_Q2 PARAM= 'ABS(total_average_power_Q2 - static_power_Q2)'

* =========================== Anvesh power Calculation ===============================


********* Total ******************
* .extract label=total_current_Q2 abs((integ(I(VD2),28.3537n,47.8632n))/(47.8632n - 28.3537n ))
* .measure TRAN total_power_Q2 PARAM='1.08*(total_current_Q2)'


********* Static ******************
* .extract label=leakage_current_high_Q2 abs((integ(I(VD2),28.35n,37.60n))/(37.60n-28.35n))
* .extract label=leakage_current_low_Q2 abs((integ(I(VD2),38.54n,47.77n))/(47.77n-38.54n))
* .measure TRAN static_power_Q2 PARAM='1.08 *(leakage_current_high_Q2 + leakage_current_low_Q2)'


********* Dynamic ******************
* .measure TRAN average_dynamic_power_Q2 PARAM='abs(total_power_Q2 - static_power_Q2)'

* 4. Rise time Fall Time
* .measure TRAN trise_Q2 TRIG v(q2) VAL=min_Supply RISE=1 TARG v(q2) VAL=max_Supply RISE=1
* .measure TRAN tfall_Q2 TRIG v(q2) VAL=max_Supply FALL=2 TARG v(q2) VAL=min_Supply FALL=2

*==============================================================================================================================================
* --------------------------------------------------------------------------------------------------------------------------------------------- 
* --------------------------------------------------- Propagation Delay Measurements for Q3 --------------------------------------------------- 
* --------------------------------------------------------------------------------------------------------------------------------------------- 
*==============================================================================================================================================

* --- Propagation Delay Measurements for Q3 ---
*.measure tran tplh_q3 TRIG v(clk) VAL='SUPPLY/2' RISE=3 TARG v(q3) VAL='SUPPLY/2' RISE=1
*.measure tran tphl_q3 TRIG v(clk) VAL='SUPPLY/2' RISE=4 TARG v(q3) VAL='SUPPLY/2' FALL=2
*.measure TRAN clk_to_q3_delay param = '(tplh_q3 + tphl_q3) / 2'



* --- Power Measurements for d3 and Q3 ---

* 1. Total Average Power
*.measure TRAN avg_current_total_Q3 AVG I(VD3) FROM=77.00971n TO=103.00996n
*.measure TRAN total_average_power_Q3 PARAM='ABS(avg_current_total_Q3 * SUPPLY)'


* 2. Static (Leakage) Power

*.measure TRAN avg_current_static_Q3 AVG I(VD3) FROM=107.07143n TO=109.99928n
*.measure lekage_current_Q3 param = 'ABS(avg_current_static_Q3)'

* Average static power is the average of these two leakage states (for 50% duty cycle).
*.measure TRAN static_power_Q3 PARAM='ABS(lekage_current_Q3 * SUPPLY)'


* 3. Average Dynamic Power
* Dynamic Power = Total Power - Static Power
*.measure TRAN average_dynamic_power_Q3 PARAM= 'ABS(total_average_power_Q3 - static_power_Q3)'



* =========================== Anvesh power Calculation ===============================


********* Total ******************
 .extract label=total_current_Q3 abs((integ(I(VD3),12.65n,37.60n))/(37.60n - 12.65n))
 .measure TRAN total_power_Q3 PARAM='1.08*(total_current_Q3)'


********* Static ******************
.extract label=leakage_current_high_Q3 abs((integ(I(VD3),12.65n,24.1025n))/(24.1025n-12.65n))
.extract label=leakage_current_low_Q3 abs((integ(I(VD3),26.068n,37.60n))/(37.60n-26.068n))
.measure TRAN static_power_Q3 PARAM='1.08 *(leakage_current_high_Q3 + leakage_current_low_Q3)'


********* Dynamic ******************
.measure TRAN average_dynamic_power_Q3 PARAM='abs(total_power_Q3 - static_power_Q3)'



* 4. Rise time Fall Time
* .measure TRAN trise_Q3 TRIG v(q3) VAL=min_Supply RISE=1 TARG v(q3) VAL=max_Supply RISE=1
* .measure TRAN tfall_Q3 TRIG v(q3) VAL=max_Supply FALL=2 TARG v(q3) VAL=min_Supply FALL=2

*==============================================================================================================================================
* --------------------------------------------------------------------------------------------------------------------------------------------- 
* --------------------------------------------------- Propagation Delay Measurements for Q4 --------------------------------------------------- 
* ---------------------------------------------------------------------------------------------------------------------------------------------
*============================================================================================================================================== 


* --- Propagation Delay Measurements for Q4 ---
*.measure tran tplh_q4 TRIG v(clk) VAL='SUPPLY/2' RISE=3 TARG v(q4) VAL='SUPPLY/2' RISE=1
*.measure tran tphl_q4 TRIG v(clk) VAL='SUPPLY/2' RISE=4 TARG v(q4) VAL='SUPPLY/2' FALL=2
*.measure TRAN clk_to_q4_delay param = '(tplh_q4 + tphl_q4) / 2'


* --- Power Measurements for d3 and Q4 ---

* 1. Total Average Power
*.measure TRAN avg_current_total_Q4 AVG I(VD4) FROM=48.000997n TO=68.00933n
*.measure TRAN total_average_power_Q4 PARAM='ABS(avg_current_total_Q4 * SUPPLY)'


* 2. Static (Leakage) Power

*.measure TRAN avg_current_static_Q4 AVG I(VD4) FROM=17.13675n TO=17.94872n
*.measure lekage_current_Q4 param = 'ABS(avg_current_static_Q4)'

* Average static power is the average of these two leakage states (for 50% duty cycle).
*.measure TRAN static_power_Q4 PARAM='ABS(lekage_current_Q4 * SUPPLY)'


* 3. Average Dynamic Power
* Dynamic Power = Total Power - Static Power
*.measure TRAN average_dynamic_power_Q4 PARAM= 'ABS(total_average_power_Q4 - static_power_Q4)'


* =========================== Anvesh power Calculation ===============================


********* Total ******************
*.extract label=total_current_Q4 abs((integ(I(VD4),18.31n,37.43n))/(37.43n - 18.31n))
*.measure TRAN total_power_Q4 PARAM='1.08*(total_current_Q4)'


********* Static ******************
*.extract label=leakage_current_high_Q4 abs((integ(I(VD4),18.3191n,27.45n))/(27.45n-18.3191n))
*.extract label=leakage_current_low_Q4 abs((integ(I(VD4),28.80n,37.62n))/(37.62n-28.80n))
*.measure TRAN static_power_Q4 PARAM='1.08 *(leakage_current_high_Q4 + leakage_current_low_Q4)'


********* Dynamic ******************
*.measure TRAN average_dynamic_power_Q4 PARAM='abs(total_power_Q4 - static_power_Q4)'


* 4. Rise time Fall Time
*.measure TRAN trise_Q4 TRIG v(q4) VAL=min_Supply RISE=1 TARG v(q4) VAL=max_Supply RISE=1
*.measure TRAN tfall_Q4 TRIG v(q4) VAL=max_Supply FALL=2 TARG v(q4) VAL=min_Supply FALL=2



* Transient Analysis
.tran 10p tend

.end
