


* HSPICE Deck for 4-bit TSPC D Flip-Flop
* Testbench to measure propagation delays

*======================================================================
* INCLUDES
*======================================================================
* Include the 65nm process model file (adjust path if necessary)
.include /modelfile_65nm/minNminP.cir

* Include the 4-bit TSPC netlist you provided
.include multibit_tspc.src.net

*======================================================================
* TOP LEVEL AND PARAMETERS
*======================================================================
.global vdd gnd
.OPTION EPS=1e-5

.param SUPPLY = 1.08
.param tend = 150n
.TEMP = 125

*======================================================================
* CIRCUIT INSTANTIATION
*======================================================================
* Instantiate the 4-bit TSPC subcircuit from your .src.net file
* .SUBCKT multi_bit_tspc clk d1 d2 d3 d4 gnd q1 q2 q3 q4 vdd
X1 clk d1 d2 d3 d4 gnd q1 q2 q3 q4 vdd multi_bit_tspc

* Add load capacitors to each output for realistic loading
C1 q1 gnd 20f
C2 q2 gnd 20f
C3 q3 gnd 20f
C4 q4 gnd 20f

*======================================================================
* VOLTAGE SOURCES (STIMULUS)
*======================================================================
* Power Supplies
Vdd vdd 0 SUPPLY
Vgnd gnd 0 0

* Clock Signal (10ns period, 100MHz
Vclk clk gnd PULSE(0 SUPPLY 0n 10p 10p 5n 10n)

* Data Inputs - Provide different patterns to test each flip-flop
*  (low_voltage high_voltage starting_delay rise_time fall_time on_pulse_width time_period)
*                lv hv    sd  rt  ft  pw  tp


*** pulse vd1
Vd1 d1 gnd PULSE(0 SUPPLY 2n 10p 10p 7.5n 15n)  * Data pulse for FF1
Vd2 d2 gnd PULSE(0 SUPPLY 8n 10p 10p 10n 20n)  * Data pulse for FF2
Vd3 d3 gnd PULSE(0 SUPPLY 12n 10p 10p 13n 26n)  * Data pulse for FF3
Vd4 d4 gnd PULSE(0 SUPPLY 18n 10p 10p 10n 20n)  * Data pulse for FF4

*======================================================================
* ANALYSIS AND MEASUREMENTS
*======================================================================
* Probes for waveform viewing
.probe v(*) v(x1.*)

* --- Propagation Delay Measurements for Q1 ---
.measure  tran  tplh_q1 TRIG v(clk) VAL='SUPPLY/2' RISE=3 TARG v(q1) VAL='SUPPLY/2' RISE=1
.measure  tran  tphl_q1 TRIG v(clk) VAL='SUPPLY/2' RISE=4 TARG v(q1) VAL='SUPPLY/2' FALL=2
.measure  TRAN  clk_to_q1_delay param = '(tplh_q1 + tphl_q1) / 2'



* --- Propagation Delay Measurements for Q2 ---
.measure tran tplh_q2 TRIG v(clk) VAL='SUPPLY/2' RISE=2 TARG v(q2) VAL='SUPPLY/2' RISE=1
.measure tran tphl_q2 TRIG v(clk) VAL='SUPPLY/2' RISE=3 TARG v(q2) VAL='SUPPLY/2' FALL=2
.measure TRAN clk_to_q2_delay param = '(tplh_q2 + tphl_q2) / 2'

* --- Propagation Delay Measurements for Q3 ---
.measure tran tplh_q3 TRIG v(clk) VAL='SUPPLY/2' RISE=3 TARG v(q3) VAL='SUPPLY/2' RISE=1
.measure tran tphl_q3 TRIG v(clk) VAL='SUPPLY/2' RISE=4 TARG v(q3) VAL='SUPPLY/2' FALL=2
.measure TRAN clk_to_q3_delay param = '(tplh_q3 + tphl_q3) / 2'

* --- Propagation Delay Measurements for Q4 ---
.measure tran tplh_q4 TRIG v(clk) VAL='SUPPLY/2' RISE=3 TARG v(q4) VAL='SUPPLY/2' RISE=1
.measure tran tphl_q4 TRIG v(clk) VAL='SUPPLY/2' RISE=4 TARG v(q4) VAL='SUPPLY/2' FALL=2
.measure TRAN clk_to_q4_delay param = '(tplh_q4 + tphl_q4) / 2'

* Transient Analysis
.tran 10p tend

.end
